US05922771
2-(6-Bromo-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride
(E)-2-(5-Bromo-6-methoxyindan-1-ylidene)ethylamine (5.0 g, 18.6 mmol) was dissolved in saturated HCl/ethanol (200 ml) and the solution was refluxed for 2 hours. After cooling, the solvent was distilled off under reduced pressure and the resulting crystals were washed with diethyl ether to provide the title compound (yield 4.61 g, 81%).

reactant | (E)-2-(5-Bromo-6-methoxyindan-1-ylidene)ethylamine | 18.6 mmol, 5.0 g | BrC=1C=C2CC/C(/C2=CC1OC)=C\CN | C12H14BrNO
reactant | HCl ethanol | 200 ml | Cl.C(C)O
product | 2-(6-Bromo-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride | yield 4.61 g, 81% | Cl.BrC1=C(C=C2C(=CCC2=C1)CCN)OC | InChI=1S/C12H14BrNO.ClH/c1-15-12-7-10-8(4-5-14)2-3-9(10)6-11(12)13;/h2,6-7H,3-5,14H2,1H3;1H
